US04432979
Step 4. 5-(4-Pyrazinyl)-2(1H)-pyridone
1,2-Dihydro-2-oxo-5-(2-pyrazinyl)nicotinic acid (72.5 g) is added as a fine powder to 800 ml of stirred quinoline heated to just below boiling. The reaction mixture is refluxed for 24 hours, allowed to cool to RT and then placed in an ice bath, and the solid crystallized out. The solid is filtered, washed with ether, dried and recrystallized from isopropanol (first treating with charcoal and filtering while hot) yielding the desired decarboxylated pyridone.

reactant | 1,2-Dihydro-2-oxo-5-(2-pyrazinyl)nicotinic acid | 72.5 g | O=C1C(C(=O)O)=CC(=CN1)C1=NC=CN=C1 | C10H7N3O3
reactant | pyridone | N1C(C=CC=C1)=O | C5H5NO
solvent | quinoline | 800 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 5-(4-Pyrazinyl)-2(1H)-pyridone | N1=CCN(C=C1)C=1C=CC(NC1)=O | C9H9N3O
